US08980877B2
(E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (110 mg, 0.26 mmol) in DCM (8 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C, giving (E)-3-[1′-ethyloxycarbony-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide (54 mg, hydrochloride salt) as a white solid.

reactant | (E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.26 mmol, 110 mg | C(C)OC(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C22H26N2O7
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-3-[1′-ethyloxycarbony-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-hydroxy-acrylamide | 54 mg | C(C)OC(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C17H18N2O6
